US04254134
N-(7-ethoxy-1,3,4,9-tetrahydro-2H-carbazol-2-yl)acetamide (Compound 2L)
A mixture of 0.02 mol of N-(1,3,4,9-tetrahydro-7-hydroxy-2H-carbazol-2-yl)acetamide, 0.022 mol of ethyl iodide, 0.022 mol of anhydrous K2CO3, and 50 ml of Me2CO was stirred and refluxed for 48 hr. Sufficient CHCl3 and H2O were added to the cooled reaction mixture to give two clear layers. The CHCl3 layer was washed with 1 N NaOH, H2O, dried, evaporated, and the resulting solid residue was recrystallized from i-PrOH to give the title compound, mp 184°-186°.

reactant | N-(1,3,4,9-tetrahydro-7-hydroxy-2H-carbazol-2-yl)acetamide | 0.02 mol | OC1=CC=C2C=3CCC(CC3NC2=C1)NC(C)=O | C14H16N2O2
reactant | ethyl iodide | 0.022 mol | C(C)I | C2H5I
reactant | K2CO3 | 0.022 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | N-(7-ethoxy-1,3,4,9-tetrahydro-2H-carbazol-2-yl)acetamide | C(C)OC1=CC=C2C=3CCC(CC3NC2=C1)NC(C)=O | C16H20N2O2
